Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol / lisinopril / simvastatin / Warfarin
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMHx CKD, DM2, pAF, CVA, OSA, gastric/colonic polyps with 
report of carcinoid, who p/w diarrhea x 10d. Diarrhea began 
suddenly, and is not associated w/ nausea or vomiting. He does 
not have any abdominal pain, no hematochezia, no melena. He has 
been having >20 small volume BMs per day with mucus. BMs come 
with few seconds of cramping beforehand or without warning. 
Diarrhea is light brown, watery. Immodium delays time to next 
BM, but diarrhea continues. No fevers, chills, CP, SOB, back 
pain. Denies recent travel/time spent outdoors. Had oysters one 
week ago, regularly eats them. These symptoms have never 
happened to him before.
Otherwise, he describes having an ___ 6 months prior which 
showed per report numerous bleeding gastric polyps and one 
colonic polyps; these studies were done at OSH. Also it shoudl 
be noted that random bx were done of the small bowel, which per 
report returned as carcinoid. It is unclear whether he has had 
follow-up for this. Denies flushing, headaches.
He also describes a ___ year history of continuous healing and 
recurring painful oral ulcers. He had a biopsy done of these 
here which returned non-specific inflammatory changes. He has 
been unable to eat solid foods for months due to the pain, and 
has restricted his PO intake to the poitn where he has lost 
~100lbs over the past year.
 
Past Medical History:
Atrial fibrillation on coumadin
Diabetes
Chronic renal insufficiency with baseline creatinine of 2.5-3.5
Hypertension
Hypercholesteremia
Hypothyroidism
History of stroke ___ years ago
Right carotid endarterectomy ___ years ago
 
Social History:
___
Family History:
Both his mother and father were smokers and developed lung 
cancer.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS 97.2 113/54 80 18 97%RA
GEN Alert, oriented, no acute distress
HEENT NCAT dry MM EOMI sclera anicteric, note of a 1.5 well 
demarcated apthous ulcer under the right posterior tongue 
without exudate.
NECK supple, no JVD, no LAD
PULM Good aeration, CTAB no wheezes, rales, ronchi
CV RRR normal S1/S2, no mrg
ABD obese soft NT ND normoactive bowel sounds
EXT WWP 2+ pulses palpable bilaterally, 1+ peripheral edema
NEURO CNs2-12 intact, motor function grossly normal
SKIN no ulcers or lesions

DISCHARGE PHYSICAL EXAM
VS T 98.4, BP 113/50, HR 67, RR 20, O2 99% RA
GEN Alert, obese, pleasant, oriented, no acute distress
HEENT NCAT dry MM EOMI sclera anicteric
PULM Good aeration, CTAB
CV distant heart sounds, regular rate, normal S1/S2, no mrg
ABD obese soft NT ND
EXT WWP
NEURO CNs2-12 intact, motor function grossly normal
SKIN no ulcers or lesions
 
Pertinent Results:
ADMISSION LABS:
___ 05:40PM BLOOD WBC-5.5 RBC-3.86* Hgb-12.2* Hct-38.0*# 
MCV-98# MCH-31.5# MCHC-32.1 RDW-15.5 Plt ___
___ 05:40PM BLOOD Neuts-65.5 Lymphs-15.3* Monos-8.2 
Eos-10.0* Baso-1.0
___ 05:40PM BLOOD Glucose-125* UreaN-78* Creat-4.8*# Na-144 
K-3.7 Cl-111* HCO3-17* AnGap-20
___ 05:40PM BLOOD ALT-8 AST-12 AlkPhos-106 TotBili-1.5
___ 01:40AM BLOOD CK(CPK)-46*
___ 05:40PM BLOOD Albumin-3.3*
___ 07:40AM BLOOD Calcium-7.6* Phos-4.9*# Mg-1.6
___ 06:55AM BLOOD PTH-291*

EKG ___:
Atrial fibrillation with moderate ventricular response. Poor R 
wave
progression, cannot rule out anteroseptal myocardial infarction 
of
indeterminate age. Diffuse non-specific ST-T wave abnormalities. 
Compared to the previous tracing of ___ there is no 
significant diagnostic change.

CXR ___:
FINDINGS:  PA and lateral images of the chest demonstrate 
well-expanded lungs which are clear.  There is no pneumothorax 
or pleural effusion.  There is no obvious consolidation, mass, 
or volume loss visualized on this exam.  There is slight 
cardiomegaly unchanged from prior exam.  Again seen are multiple 
osteophytes along the spine consistent with DISH.  Other 
visualized osseous structures are unremarkable.  
IMPRESSION:  Essentially unchanged chest radiograph with no 
evidence of lung mass or consolidation on this exam.

DISCHARGE LABS:
___ 07:25AM BLOOD WBC-6.5 RBC-3.67* Hgb-11.3* Hct-36.5* 
MCV-100* MCH-30.9 MCHC-31.0 RDW-16.0* Plt ___
___ 07:25AM BLOOD Neuts-70.0 Lymphs-16.7* Monos-5.0 
Eos-8.0* Baso-0.2
___ 07:25AM BLOOD Glucose-105* UreaN-72* Creat-4.7* Na-148* 
K-3.9 Cl-120* HCO3-15* AnGap-17
___ 07:25AM BLOOD Calcium-7.9* Phos-4.2 Mg-2.___ hx multiple medical problems presents with 10d of copious 
diarrhea.

Diarrhea: Pt admitted for 10 days of diarrhea, no fever, chills, 
nausea, vomiting. On arrival his initial vitals were T 97.0 HR 
78 BP 104/53 R 18 and satting 98% on roomair. He received 1L NS 
in the ED and was transferred to the floor. He was made NPO, and 
continued on fluids. His diarrhea largely resolved without PO 
intake; although he still reported stooling somewhat more 
frequently than usual, he had no urgency and no loss of bowel 
control. Patient was started on a clear diet, and his diarrhea 
returned, although still not at the same volume he reported 
having at home -- ___ loose stools over 24 hours, one with loss 
of bowel control. He was seen by GI, who felt his diarrhea was 
unlikely infectious, and advised a lactose free diet to rule out 
lactose intolerance; also recommended outpatient follow up to 
investigate question of carcinoid, stomach polyps found on EGD 
at outside hospital. Stool studies were sent and came back 
negative for C diff, giardia, and vibrio. O&P pending on 
discharge, now negative. Chromogranin and 24 hour urine for 
5-HIAA drawn for question of carcinoid, still pending. Pt was 
amenable to outpatient follow up with ___ gastroenterology to 
avoid complications of having records at 2 hospitals. As C diff 
was negative he was started on loperamide to control symptoms, 
and sent out in improved condition to follow up with his PCP and 
his gastroenterologist. 

#Oral ulcers: unclear etiology. Patient has had biopsies showing 
squamous dysplasia, unclear etiology. Question of HSV or 
candidal esophagitis. Possible food reaction, as seems to be 
irritated by various acidic foods. Treated with oral viscous 
lidocaine, recommended outpatient follow-up with GI. 

#AOCKD: Cr on admission was 4.7. Close to recent baseline. Lasix 
held on admission. Patient was seen by nephrology, who confirmed 
that patient does not currently need hemodialysis. 

#DM2: Pt placed on insulin sliding scale, blood glucose well 
controlled during stay. 

#OSA. Patient used CPAP during stay, stated he preferred the 
mask he was given as inpatient over his own, and was invited to 
take it home with him on discharge, which he did. 

#Paroxysmal Afib. Patient not on warfarin owing to history of 
calciphylaxis. Lopressor and ASA/plavix were continued. 

#Gout. Allopurinol was continued; pt did not have flare during 
his stay. 

#Transitional- Patient was sent out on seven day course of 
sodium bicarb for renal failure. Also, issue of HIV was raised 
given patient's oral ulcers suggestive of HSV or candidal 
esophagitis, patient was resistant to testing; issue could be 
raised again in outpatient environment. 
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from webOMR.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 30 mg PO EVERY OTHER DAY 
4. Clopidogrel 75 mg PO DAILY 
5. Colchicine 0.6 mg PO DAILY 
as needed for gout 
6. Furosemide 80 mg PO DAILY 
7. Furosemide 40 mg PO QAFTERNOON leg swelling 
8. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
9. Metoprolol Tartrate 50 mg PO BID 
10. Pravastatin 40 mg PO DAILY 
11. Ranitidine 150 mg PO DAILY 
12. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
to tongue lesions
 
14. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Cinacalcet 30 mg PO EVERY OTHER DAY 
5. Clopidogrel 75 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. Pravastatin 40 mg PO DAILY 
8. Ranitidine 150 mg PO DAILY 
9. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
10. Lidocaine Viscous 2% 20 mL PO QID:PRN mouth pain 
RX *lidocaine HCl 20 mg/mL take 20ml qid prn Disp #*1 Bottle 
Refills:*0
11. Colchicine 0.6 mg PO DAILY 
as needed for gout 
12. Furosemide 80 mg PO DAILY 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
to tongue lesions
 
14. Loperamide 2 mg PO QID:PRN diarrhea 
RX *loperamide 2 mg 1 capsule by mouth four times a day Disp 
#*120 Capsule Refills:*1
RX *loperamide 2 mg 1 capsule by mouth four times a day Disp 
#*120 Capsule Refills:*0
15. Sodium Bicarbonate 650 mg PO BID 
RX *sodium bicarbonate 650 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, It was a pleasure taking care of you during 
your stay at ___. You were 
admitted for diarrhea. We treated you with IV fluids, and 
encouraged you not to eat for several hours. We ran tests, some 
of which are still pending and will be followed up by your out 
patient provider; however, your tests for intestinal infections 
were negative. You remained stable, and your diarrhea resolved. 
You were seen by a gastroenterology team, who felt you could 
benefit from an outpatient workup. You were also seen by a 
nephrology team, who determined that you still are not yet in 
need of hemodialysis. They also recommended that you eliminate 
lactose (dairy) from your diet for a while to determine if your 
diarrhea may be caused by lactose intolerance. You were 
discharged with a medication to help slow down your bowel 
movements to follow up with one of our outpatient 
gastroenterologists. 
 
Followup Instructions:
___